US04789465
Preparation of 3-Chloro-N-[(4,6-dimethoxypyrimidin-2-yl)aminocarbonyl]-2-pyridinesulfonamide-1-oxide
To a stirring solution of the N-oxide of 3-chloro-2-pyridinesulfonamide (85 mg, 0.4 mmol) and the phenyl carbamate of 4,6-dimethoxy-2-aminopyrimidine (114 mg, 0.40 mmol) in acetonitrile was added DBU (62 mg, 0.40 mmol). Addition of H2O followed by 5% HCl caused a precipitate to form which was collected, m.p. 144°-147° C. NMR (200 MHz, d6 -DMSO) δ 3.91 (s, 6H), 5.998 (s, 1H), 7.7 (m, 2H), 8.4 (d, 1H), 10.8 (br s, 1H) and 13.1 (br s, 1H); IR (nujol) 1710 (s) cm-1 ; mass spectrum m/e 390 (M+, calc. for C12H12ClN5O6S 389+1).

reactant | 3-chloro-2-pyridinesulfonamide | 0.4 mmol, 85 mg | ClC=1C(=NC=CC1)S(=O)(=O)N | C5H5ClN2O2S
reactant | phenyl carbamate | C(N)(OC1=CC=CC=C1)=O | C7H7NO2
reactant | 4,6-dimethoxy-2-aminopyrimidine | 0.40 mmol, 114 mg | COC1=NC(=NC(=C1)OC)N | C6H9N3O2
reactant | DBU | 0.40 mmol, 62 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | HCl | Cl | ClH
reactant | H2O | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-Chloro-N-[(4,6-dimethoxypyrimidin-2-yl)aminocarbonyl]-2-pyridinesulfonamide-1-oxide | ClC1=C([N+](=CC=C1)[O-])S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)OC | C12H12ClN5O6S
